US07923450B2
b) Ethyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate
The title compound was prepared from ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate (49 mg, 0.22 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (55 mg, 0.15 mmol) using in analogous manner the procedure described in example 45b). Obtained as a pale-yellow solid (8 mg, 10%). MS ISP (m/e): 408.4 [(M+H)+]. mp 162-164° C.

reactant | ethyl 3-[1-dimethylamino-methylidene]-2-oxo-cyclohexanecarboxylate | 0.22 mmol, 49 mg | CN(C=C1C(C(CCC1)C(=O)OCC)=O)C | C12H19NO3
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.15 mmol, 55 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | Ethyl 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazoline-8-carboxylate | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)C(=O)OCC | C22H25N5O3
